US08895544B2
2-Iodo-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine-6-carboxylic acid tert-butyl ester
To a solution of 4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine-6-carboxylic acid tert-butyl ester (Preparation 27, 4.8 g, 20.23 mmol) in THF (60 mL) was added NIS (4.78 g, 21.24 mmol). The reaction was stirred at room temperature for 18 hours and the solvent was then removed in vacuo. The residue was dissolved in EtOAc (200 mL) and the resulting solution was washed with sodium thiosulfate solution (150 mL). The aqueous layer was re-extracted with EtOAc (150 mL) and the combined organic layers were washed with brine (150 mL), dried over MgSO4 and concentrated in vacuo to give the title compound as a tan solid (6.14 g) in an 84% yield.

reactant | 4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine-6-carboxylic acid tert-butyl ester | 20.23 mmol, 4.8 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)N=CN2 | C12H19N3O2
reactant | NIS | 21.24 mmol, 4.78 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-Iodo-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine-6-carboxylic acid tert-butyl ester | 6.14 g, 84% yield | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)N=C(N2)I | C12H18IN3O2
